US03965264
Benzoylethylene (vinyl phenyl ketone)
Benzalacetone and benzalacetophenone

reactant | Benzalacetone | C(C1=CC=CC=C1)=CC(C)=O | C10H10O
reactant | benzalacetophenone | C(C1=CC=CC=C1)=CC(=O)C1=CC=CC=C1 | C15H12O
product | Benzoylethylene | C(C1=CC=CC=C1)(=O)C=C | C9H8O
